US08557832B2
rac-3-[trans-2-hydroxycyclohexyl]-6-{[6-(1-methyl-1H-pyrazol-4-yl)pyridine-3-yl]methyl}benzo[h]quinazolin-4(3H)-one
To a solution of rac-6-[(6-chloropyridin-3-yl)methyl]-3-[trans-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one (0.080 g, 0.19 mmol) in 3 mL of THF under an atmosphere of nitrogen was added cesium carbonate (0.38 mL, 1 N aqueous, 0.38 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.079 g, 0.38 mmol), and bis(tri-tert-butylphosphine)palladium(0) (10 mol %). The reaction was heated at 100° C. for 20 h, cooled to rt, and diluted with ethyl acetate and water. The organic layer was removed and washed with saturated aqueous sodium bicarbonate and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 100% ethyl acetate, to provide the title compound that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 466.0 for [M+H]+: 1H NMR (400 MHz, CD3OD) δ 9.02-8.99 (m, 1H), 8.67 (br s, 1H), 8.61 (s, 1H), 8.33 (s, 1H), 8.23 (d, J=7.5 Hz, 1H), 8.03-8.00 (m, 2H), 7.82-7.62 (m, 4H), 4.60 (s, 2H), 4.10-4.04 (m, 1H), 3.89 (s, 3H), 2.08-2.00 (m, 1H), 1.93-1.83 (m, 1H), 1.90-1.72 (m, 3H), 1.38-1.30 (m, 4H).

reactant | rac-6-[(6-chloropyridin-3-yl)methyl]-3-[trans-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one | 0.19 mmol, 0.080 g | ClC1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@H]2[C@@H](CCCC2)O)=O | C24H22ClN3O2
reactant | cesium carbonate | 0.38 mmol, 1 N, 0.38 mL | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.38 mmol, 0.079 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | bis(tri-tert-butylphosphine)palladium(0) | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | rac-3-[trans-2-hydroxycyclohexyl]-6-{[6-(1-methyl-1H-pyrazol-4-yl)pyridine-3-yl]methyl}benzo[h]quinazolin-4(3H)-one | O[C@H]1[C@@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=NC(=CC1)C=1C=NN(C1)C)C=CC=C3 | C28H27N5O2
